data/specific_train_final.csv
"CC(=O)C(CO[O:20])O.[N:10]=O>>CC(=O)C(CO[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC[C:10]1C=CC=CC1O.[O:20][O]>>CC[C:10]1(C=CC=CC1O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCCCC(CO[O:10])O>>[H:20][O:10]OCC(CCCC)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC(C(C)[O:20][O:21]N=O)O>>CCCC(C(C)[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1=CC(=CC(=C1)CO[O:20])C.[N+](=O)([O-])[O:10]>>CC1=CC(=CC(=C1)CO[O:20][O:10][N+](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(C(C)O[N+](=O)[O-])O[O:20].[N+](=O)([O-])[O:10]>>CCCC(C(C)O[N+](=O)[O-])O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21](C)(C)CCCC.[Cl:10]>>[H:20][Cl:10].CCCC[C:21](C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
[CH:7]1=[CH:6][CH:5]=[C:4]([CH:9]=[CH:8]1)[CH2:3][CH2:2][O:1].[N:11](=[O:12])[O:10]>>[CH:7]1=[CH:6][CH:5]=[C:4]([CH:9]=[CH:8]1)[CH2:3][CH2:2][O:1].[N+:11](=[O:12])[O-:10] 11-10,Room Temperature,Propagation,ha resonance
"CCC(CO)[O:20][O:21]N=O>>CCC(CO)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(O[O:20])(Cl)(Cl)Cl.[N:10]=O>>C(O[O:20][N:10]=O)(Cl)(Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(CO)([CH:10]CO)[O:20][N+:21](=O)[O-]>>CC1(CO)[CH:10](CO)[O:20]1.[N+:21](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[H:20][O:21][O].CCCCCCCC(CC)O[O:10]>>[H:20][O:10]OC(CC)CCCCCCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CCCC12C=CC(C(C1O)OO2)O[O:10]>>[H:20][O:10]OC1C=CC2(C(C1OO2)O)CCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:4][C:5]([CH2:11][O:12][N+:13](=[O:15])[O-:14])([CH:6]([CH:8]=[O:9])[O:7])[OH:10].[N+:2](=[O:3])[O-:1]>>[CH3:4][C:5]([CH2:11][O:12][N+:13](=[O:15])[O-:14])([CH:6]([CH:8]=[O:9])[O:7][N+:2](=[O:3])[O-:1])[OH:10] 2-2,7; 7-2,7",Room Temperature,Termination,recombine
"CC(=O)OCCC[O:20][O:21]N=O>>CC(=O)OCCC[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:1][C:2]([CH2:11][OH:12])([CH:3]([CH2:5][OH:6])[O:4])[O:7][N+:8](=[O:10])[O-:9]>>[CH3:1][C:2]([CH2:11][OH:12])[O:7][N+:8](=[O:10])[O-:9].[CH2:5]([CH:3]=[O:4])[OH:6] 4-4,3; 3,2-3,4; 3,2-2",Room Temperature,Propagation,retroaddition
"[CH3:10][O:9][CH:6]([CH2:7][OH:8])[O:5][O:4][O:3][N+:2](=[O:1])[O-:11]>>[CH3:10][O:9][CH:6]([CH2:7][OH:8])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:11] 2,3-3; 2,3-2",Room Temperature,Initiation,homolyze
"CC1=C(C)[CH:20]=[C:21](C=C1)C.[OH:10]>>CC1=C(C)[CH:20]([C:21](C=C1)C)[OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C)(CCO)[O:20][O:21][O]>>CC(C)(CCO)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)C(CO[N+](=O)[O-])[O:20][O:21]N=O>>CC(C)C(CO[N+](=O)[O-])[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C(C)(C)[O:20][O:21]N=O)O[N+](=O)[O-]>>CC(C(C)(C)[O:20])O[N+](=O)[O-].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)O[C:10](C)C.[O:20][O]>>CC(C)O[C:10](C)(C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:1][O:2][O:3][CH:4][CH:5]=[C:6]([CH3:7])[CH2:8][O:9][N+:10](=[O:11])[O-:12]>>[H:1][O:2].[CH3:7][C:6](=[CH:5][CH:4]=[O:3])[CH2:8][O:9][N+:10](=[O:11])[O-:12] 4-3,4; 3,2-3,4; 3,2-2",Room Temperature,Propagation,retroaddition
"[H:20][O:21]C1=CC=CC=C1.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].C1=CC=C(C=C1)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:12][C:11](=[O:13])[CH:8]([C:4]([CH3:7])([CH2:3][O:2][OH:1])[O:5][OH:6])[O:9][OH:10].[He:14]>>[H:12][C:11](=[O:13])[CH:8]([C:4]([CH3:7])([CH2:3][O:2])[O:5][OH:6])[O:9][OH:10].[He:14].[OH:1] 1,2-1; 1,2-2",Room Temperature,Initiation,homolyze
"[CH3:1][CH:2]([CH3:3])[O:4][O:5][N:6]=[O:7]>>[CH3:1][CH:2]([CH3:3])[O:4].[N:6](=[O:7])[O:5] 4,5-5; 4,5-4",Room Temperature,Initiation,homolyze
"C(C=CC[O:20][O:21]N=O)O[N+](=O)[O-]>>C(C=CCO[N+](=O)[O-])[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][CH2:22].CC(=O)C(=O)CO.[O:10][O]>>[H:20][O:10][O].CC(=O)C(=O)CO.[CH2:22]=[O:21] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CSC[O:20][O:21]N=O>>CSC[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:1][C:2]([CH:5]([CH2:7][OH:8])[OH:6])[O:3][OH:4]>>[CH3:1][C:2](=[O:3])[CH:5]([CH2:7][OH:8])[OH:6].[OH:4] 4,3-4;4,3-3,2;2-3,2",Room Temperature,Propagation,retroaddition
"CCC12C=CC(C(C1O)OO2)[O:20][O:21]N=O>>CCC12C=CC(C(C1O)OO2)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C1=CC=CC(C)=C1C(C)[O][O:10].[O:20][N+]([O-])=O>>C1=CC=CC(C)=C1C(C)[O][O:10][O:20][N+]([O-])=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
